US20010036946A1
1-[N6-(1,1-dimethylethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine
A solution of 120 g (0.228 mol) of 1-[N2-(phenylmethoxycarbonyl)-N6-(1,1-dimethylethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)piperazine in 1000 ml of methanol and 240 ml of 1M aqueous potassium hydrogen sulphate solution was hydrogenated in the presence of 30 g palladium on charcoal (10%) at 20° C. and 3 bar of hydrogen pressure until the uptake of hydrogen had ceased. The catalyst was filtered off, the filtrate evaporated down in vacuo, the residue was taken up in isopropanol/methanol and adjusted to pH 7-8 by the addition of a concentrated aqueous ammonia solution. The solution was filtered and evaporated to dryness. 87 g (97% of theory) of an oil were obtained. IR (KBr): 1634, 1701 cm−1 (C═O) Rf: 0.79 (ethyl acetate/methanol/conc. aqueous ammonia =6/4/1 (v/v/v)

reactant | 1-[N2-(phenylmethoxycarbonyl)-N6-(1,1-dimethylethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)piperazine | 0.228 mol, 120 g | C1(=CC=CC=C1)COC(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N1CCN(CC1)C1=CC=NC=C1 | C28H39N5O5
reactant | hydrogen | [H][H] | H2
reactant | KBr | [K+].[Br-]
reactant | ammonia | N | H3N
solvent | methanol | 1000 ml | CO | CH4O
solvent | potassium hydrogen sulphate | 1M, 240 ml | S(=O)(=O)(O)[O-].[K+]
catalyst | palladium on charcoal | 30 g | [Pd] | Pd
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 1-[N6-(1,1-dimethylethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine | CC(C)(OC(=O)NCCCC[C@H](N)C(=O)N1CCN(CC1)C1=CC=NC=C1)C | C20H33N5O3
